US04055580
Preparation of N-linoleyl-aminomethylcyclohexanecarboxylic acid
5 grams of aminomethylcyclohexanecarboxylic acid were dissolved in 50 cm3 of 6% sodium hydroxide. This solution was stirred vigorously and maintained at 10° C while 10 grams of linoleyl chloride were added drop by drop. The stirring was maintained for 1 hour at ambient temperature. The precipitate obtained on centrifuging was washed twice with acetone and allowed to dry.

reactant | aminomethylcyclohexanecarboxylic acid | 5 grams | NCC1(CCCCC1)C(=O)O | C8H15NO2
reactant | linoleyl chloride | 10 grams | C(CCCCCCC\C=C/C\C=C/CCCCC)Cl | C18H33Cl
solvent | sodium hydroxide | 50 cm3 | [OH-].[Na+]
product | N-linoleyl-aminomethylcyclohexanecarboxylic acid | C(CCCCCCC\C=C/C\C=C/CCCCC)NCC1(CCCCC1)C(=O)O | C26H47NO2
